US09371329B2
Step 1. Preparation of 3,3,3-trifluoro-N-(6-(4-phenoxyphenyl)pyridazin-3-yl)propanehydrazide
To a solution of 3,3,3-trifluoropropionic acid (2.07 mmole) in DCM (10 mL), was added EDCI HCl (3.02 mmole) and HOBt (2.07 mmole). The solution was stirred at RT for 0.5 hour followed by addition of 3-hydrazinyl-6-(4-phenoxyphenyl)pyridazine A, prepared as disclosed in Example 3, (2.07 mmole) in 30 mL of DCM and EDIPA ((7.24 mmole). The coupling reaction will also work with 1,3-dicyclohexylcarbodiimide and DCM as a solvent or EDCI HCl and methanol as a solvent. The resulting reaction mixture was stirred at RT overnight. The mixture was diluted with saturated aqueous NaHCO3. The organic extract was washed with H2O and dried over Na2SO4 and then evaporated in vacuo. The crude product was purified with prep TLC eluting with 5% methanol and dichloromethane mixture to give B.

reactant | 3,3,3-trifluoropropionic acid | 2.07 mmole | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | HOBt | 2.07 mmole | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-hydrazinyl-6-(4-phenoxyphenyl)pyridazine | N(N)C=1N=NC(=CC1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H14N4O
reactant | EDIPA | CCOP(N(C(C)C)C(C)C)O | C8H20NO2P
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | EDCI HCl | CCN=C=NCCCN(C)C.Cl
solvent | methanol | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EDCI HCl | 3.02 mmole | CCN=C=NCCCN(C)C.Cl
product | 3,3,3-trifluoro-N-(6-(4-phenoxyphenyl)pyridazin-3-yl)propanehydrazide | FC(CC(=O)N(N)C=1N=NC(=CC1)C1=CC=C(C=C1)OC1=CC=CC=C1)(F)F | C19H15F3N4O2
